US05521170
A mixture of N-ethoxycarbonylmethyl-N-(4-nitrobenzoyl)-2-nitroaniline (500 mg) and iron powder (374 mg) in a mixture of ethanol (10 ml) and acetic acid (1 ml) was heated at 80° C. for 3 hours and the solution was cooled to ambient temperature. The mixture was filtered through celite and the filtrate was evaporated in vacuo. The residue was dissolved in chloroform (20 ml) and the solution was neutralized with aqueous sodium hydrogen carbonate. The solution was filtered through celite and the organic filtrate was washed with brine. The solution was dried over magnesium sulfate and the solvent was evaporated in vacuo to give a crude oil. The oil was purified by silica gel column (10 g, 2% methanol in chloroform) to give 4-(4-aminobenzoyl)-1,2,3,4-tetrahydroquinoxalin-2-one (58 mg) as a pale yellow powder.

reactant | N-ethoxycarbonylmethyl-N-(4-nitrobenzoyl)-2-nitroaniline | 500 mg | C(C)OC(=O)CN(C1=C(C=CC=C1)[N+](=O)[O-])C(C1=CC=C(C=C1)[N+](=O)[O-])=O | C17H15N3O7
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 374 mg | [Fe] | Fe
product | 4-(4-aminobenzoyl)-1,2,3,4-tetrahydroquinoxalin-2-one | 58 mg | NC1=CC=C(C(=O)N2CC(NC3=CC=CC=C23)=O)C=C1 | C15H13N3O2
